US07759339B2
Step A: Tert-butyl 4-(2-chlorophenylthio)piperidine-1-carboxylate
Tert-butyl 4-(methylsulfonyloxy)piperidine-1-carboxylate (2.00 g, 7.16 mmol, prepared according to Blurton et al., WO 00/43362), 2-chlorobenzenethiol (0.898 ml, 7.88 mmol), and potassium carbonate (1.58 g, 11.5 mmol) were stirred together in acetonitrile (15 ml). The reaction was heated to 75° C. and was stirred at that temperature for 15 h. After cooling to room temperature, brine was added, and the mixture was extracted with EtOAc three times. Combined organic layers were dried over MgSO4, filtered and concentrated in vacuo.

reactant | Tert-butyl 4-(methylsulfonyloxy)piperidine-1-carboxylate | 7.16 mmol, 2.00 g | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
reactant | 2-chlorobenzenethiol | 7.88 mmol, 0.898 ml | ClC1=C(C=CC=C1)S | C6H5ClS
reactant | potassium carbonate | 11.5 mmol, 1.58 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
product | Tert-butyl 4-(2-chlorophenylthio)piperidine-1-carboxylate | ClC1=C(C=CC=C1)SC1CCN(CC1)C(=O)OC(C)(C)C | C16H22ClNO2S
